US03931177
A well stirred mixture of 4-bromo-2-morpholino phenol (4.44 g, 0.017 mole), benzyl chloride (2.3 ml, 0.02 mole), potassium carbonate (4.75 g, 0.034 mole), and dry acetone (60 ml) was heated under reflux for 7 hours. The mixture was diluted with water, extracted with ether and the combined extracts washed with dilute sodium hydroxide solution and with water. Extraction of the ethereal solution with concentrated hydrochloric acid and evaporation of these extracts under reduced pressure gave 4-benzyloxy-3-morpholinobromobenzene hydrochloride, which was collected and washed with ether (5.29 g, 80%, m.p. 164°-174°C). The hydrochloride, recrystallised from ethanol, had m.p. 168°-177°C. A suspension of the hydrochloride in water was treated with excess potassium carbonate and 4-benzyloxy-3-morpholinobromobenzene extracted into ether. Evaporation of the ether extracts gave the free base, m.p. 84°-87°C.

reactant | 4-bromo-2-morpholino phenol | 0.017 mole, 4.44 g | BrC1=CC(=C(C=C1)O)N1CCOCC1 | C10H12BrNO2
reactant | benzyl chloride | 0.02 mole, 2.3 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 0.034 mole, 4.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-benzyloxy-3-morpholinobromobenzene hydrochloride | Cl.C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)N1CCOCC1 | InChI=1S/C17H18BrNO2.ClH/c18-15-6-7-17(21-13-14-4-2-1-3-5-14)16(12-15)19-8-10-20-11-9-19;/h1-7,12H,8-11,13H2;1H
